US05144041
Preparation of 2-(p-Chlorophenyl-4-bromo-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of 2-(p-chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile (5.70 g, 0.02 mol) in chlorobenzene is treated with bromine (3.52 g, 0.022 mol), heated at 80° C. for 20 hours, cooled to room temperature, treated with additional bromine (3.52 g, 0.022 mol) and heated at 100° C. until reaction is complete by HPLC analysis. The reaction mixture is cooled to room temperature and diluted with ethyl acetate and water. The organic phase is washed with aqueous sodium metabisulfite, dried (MgSO4) and concentrated in vacuo to afford a solid residue. The residue is recrystallized from ethyl acetate/heptane to give the title product as a white solid, 6.50 g (89.4% yield), mp 126°-129° C.

reactant | 2-(p-chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 0.02 mol, 5.70 g | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)C | C13H8ClF3N2
reactant | bromine | 0.022 mol, 3.52 g | BrBr | Br2
reactant | bromine | 0.022 mol, 3.52 g | BrBr | Br2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | p-Chlorophenyl-4-bromo-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 89.4% yield | ClC1=CC=C(C=C1)C=1N(C(=C(C1C#N)Br)C(F)(F)F)C | C13H7BrClF3N2
